US09056874B2
a) (±)-2-(1-Amino-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (0.50 g, 0.68 mmol) was dissolved in 1.25M HCl in MeOH (10.9 mL, 13.63 mmol) and the mixture was heated at 60° C. After 4 hours the reaction was cooled to room temperature and concentrated. The residue was dissolved in MeOH (6.81 mL) and Cs2CO3 (2.22 g, 6.81 mmol) was added, and the mixture was stirred at 60° C. After 30 minutes additional Cs2CO3 (1.11 g, 3.4 mmol) was added. After 10 minutes the reaction was diluted with sat. aq. NH4Cl and the layers separated. The aqueous layer was extracted with EtOAc, dried over MgSO4, filtered and concentrated. The resulting residues was purified by flash column chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6 with about 5 μL TFA) δ ppm 11.19 (br. s., 1H) 8.27 (br. s., 1H) 7.78 (d, J=7.96 Hz, 1H) 7.69 (dd, J=8.46, 1.52 Hz, 1H) 7.13 (t, J=2.91 Hz, 1H) 6.94 (s, 1H) 5.09 (br. s., 1H) 3.77 (s, 3H). HRMS calcd. for C20H16F3N6O (M+H)+ 400.138. found 400.1385.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C(F)(F)F)(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C35H46F3N5O5SSi
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(1,1-dimethylethylsulfinamido)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.68 mmol, 0.50 g | C(#N)C=1C=CC2=C(N(C(=N2)C(C(F)(F)F)(NS(=O)C(C)(C)C)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C35H46F3N5O5SSi
reactant | MeOH | 13.63 mmol, 10.9 mL | CO | CH4O
reactant | Cs2CO3 | 6.81 mmol, 2.22 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cs2CO3 | 3.4 mmol, 1.11 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | HCl | 1.25M | Cl | ClH
solvent | NH4Cl | [NH4+].[Cl-]
product | (±)-2-(1-Amino-2,2,2-trifluoro-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C(F)(F)F)(C1=C2C=CNC2=C(C=C1OC)C)C1=NC2=C(N1)C=CC(=C2)C#N | C20H16F3N5O
